US07943776B2
2-(1,3-benzothiazol-2-ylmethoxy)-N-{5-[(cyclopropylamino)carbonyl]-2-methylphenyl}pyrimidine-5-carboxamide hydrobromide
Using an analogous procedure to that described in Example 36, 2-(1,3-benzothiazol -2-ylmethoxy)-N-{5-[(cyclopropylamino)carbonyl]-2-methylphenyl }pyrimidine-5-carboxamide was reacted with hydrobromic acid to give the title compound; NMR Spectrum: (DMSOd6) 0.57 (m, 2H), 0.69 (m, 2H), 2.28 (s, 3H), 2.85 (m, 1H), 5.10 (s, 2H), 7.34, (d, 1H) 7.49 (m, 1H), 7.55 (m, 1H), 7.66 (m, 1H), 7.76 (s, 1H), 7.99 (d, 1H), 8.10 (d, 1H), 8.38 (s, 1H), 9.11 (s, 2H), 9.19, (s, 1H), 10.09 (s, 1H); Mass Spectrum: M−H− 458.

reactant | 2-(1,3-benzothiazol -2-ylmethoxy)-N-{5-[(cyclopropylamino)carbonyl]-2-methylphenyl }pyrimidine-5-carboxamide | S1C(=NC2=C1C=CC=C2)COC2=NC=C(C=N2)C(=O)NC2=C(C=CC(=C2)C(=O)NC2CC2)C | C24H21N5O3S
reactant | hydrobromic acid | Br | BrH
product | 2-(1,3-benzothiazol-2-ylmethoxy)-N-{5-[(cyclopropylamino)carbonyl]-2-methylphenyl}pyrimidine-5-carboxamide hydrobromide | Br.S1C(=NC2=C1C=CC=C2)COC2=NC=C(C=N2)C(=O)NC2=C(C=CC(=C2)C(=O)NC2CC2)C | InChI=1S/C24H21N5O3S.BrH/c1-14-6-7-15(22(30)27-17-8-9-17)10-19(14)29-23(31)16-11-25-24(26-12-16)32-13-21-28-18-4-2-3-5-20(18)33-21;/h2-7,10-12,17H,8-9,13H2,1H3,(H,27,30)(H,29,31);1H
